US09035073B2
Enantiomer 1 of 3-(3-chloro-5-fluorophenyl)-1-ethyl-3-methoxypyrrolidine
Preparation according to Example 22. (+)-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine (0.01 g, 0.043 mmol), triethylamine (12.1 μL, 0.086 mmol), tetrahydrofuran (2 ml) and iodoethane (5.2 μL, 0.065 mmol). The crude product analyzed by GCMS. Analysis showed 74% conversion. MS m/z (relative intensity, 70 eV) 257 (M+, 10), 242 (94), 227 (39), 157 (40), 71 (bp).

reactant | (+)-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine | 0.043 mmol, 0.01 g | ClC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13ClFNO
reactant | triethylamine | 0.086 mmol, 12.1 μL | C(C)N(CC)CC | C6H15N
reactant | iodoethane | 0.065 mmol, 5.2 μL | ICC | C2H5I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(3-chloro-5-fluorophenyl)-1-ethyl-3-methoxypyrrolidine | ClC=1C=C(C=C(C1)F)C1(CN(CC1)CC)OC | C13H17ClFNO
